US07511067B2
4-{2-[1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl)-propylamino]-1-hydroxy-ethyl}-2-hydroxymethyl-phenol
The compound is prepared analogously to the general working method A from 241 mg (0.7 mmol) of methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate and 181 mg (0.7 mmol) of 1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl)-propylamine.

reactant | methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate | 0.7 mmol, 241 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(C(O)OCC)=O | C19H20O6
reactant | 1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl)-propylamine | 0.7 mmol, 181 mg | CC(CCN1N=C(N=C1C)C1=CC=C(C=C1)C)(C)N | C15H22N4
product | 4-{2-[1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl)-propylamino]-1-hydroxy-ethyl}-2-hydroxymethyl-phenol | CC(CCN1N=C(N=C1C)C1=CC=C(C=C1)C)(C)NCC(O)C1=CC(=C(C=C1)O)CO | C24H32N4O3
